US08097719B2
In another aspect, the deprotection of protected meropenem is achieved by hydrogenation at atmospheric pressure in mixture of tetrahydrofuron and water as solvent media with palladium on charcoal at room temperature at pH of reaction mass 6.5 to 7.5 to get meropenem trihydrate in desirable yield and purity.

reactant | meropenem | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O | C17H25N3O5S
solvent | water | O | H2O
catalyst | palladium on charcoal | [Pd] | Pd
product | meropenem trihydrate | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)N(C)C)C(=O)O)[C@@H](C)O.O.O.O | InChI=1S/C17H25N3O5S.3H2O/c1-7-12-11(8(2)21)16(23)20(12)13(17(24)25)14(7)26-9-5-10(18-6-9)15(22)19(3)4;;;/h7-12,18,21H,5-6H2,1-4H3,(H,24,25);3*1H2/t7-,8-,9+,10+,11-,12-;;;/m1.../s1
